US08466289B2
Synthesis of Intermediate 7-Hydroxy-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one (I-7b)
2-Nitromethylene-oxazolidine (3 g, 23.0 mmol) was added portion wise to a stirred solution of 2-methyl-malonic acid bis-(2,4,6-trichloro-phenyl) ester (12 g, 25.15 mmol) in Xylene (50 mL) under nitrogen atmosphere over a period of 1 hour at 125° C. The resulting mixture was heated to 125° C. for 5 hours. The reaction mixture was monitored by TLC (50% ethylacetate in hexane). The reaction mixture was concentrated and the concentrate was purified by column chromatography on silica gel (60% ethylacetate in hexane) to afford 1.5 g of the product (30% yield).

reactant | 2-Nitromethylene-oxazolidine | 23.0 mmol, 3 g | [N+](=O)([O-])C=C1OCCN1 | C4H6N2O3
reactant | 2-methyl-malonic acid bis-(2,4,6-trichloro-phenyl) ester | 25.15 mmol, 12 g | ClC1=C(C(=CC(=C1)Cl)Cl)OC(C(C(=O)OC1=C(C=C(C=C1Cl)Cl)Cl)C)=O | C16H8Cl6O4
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | Xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | hexane | CCCCCC | C6H14
product | 7-Hydroxy-6-methyl-8-nitro-2,3-dihydro-oxazolo[3,2-a]pyridin-5-one | 1.5 g, 30% yield | OC=1C(=C2N(C(C1C)=O)CCO2)[N+](=O)[O-] | C8H8N2O5
